US07619107B2
Preparation of 2-(Pyrrolidin-2-ylidenemethyl)-1-pyrroline
To a solution of diisopropylamine (11.1 g, 109.7 mmol) in THF (200 mL) was dropwise added n-BuLi (2.89 M, 37.97 mL, 109.7 mmol) at −78° C. under nitrogen. Once all the n-BuLi was added, the temperature was adjusted to −5° C., and the reaction mixture was stirred for 30 min. Then a solution of 2-methyl-1-pyrroline (5.65 g, 67.9 mmol) in THF (15 mL) was added dropwise to the reaction mixture at −5° C., and then stirred. After 30 min, 2-methylthio-1-pyrroline (6.02 g, 52.3 mmol) was added dropwise over 30 min at −78° C. The reaction mixture was stirred as the temperature was allowed to gradually rise to room temperature, and was continuously stirred at room temperature overnight. THF solvent was removed under reduced pressure, then 50 mL of methanol was added dropwise to the residue. After removing all of the volatile solvent, pentane (2×100 mL) was added to the residue, and the mixture was filtered. Concentration of the filtrate under reduced pressure, followed by vacuum distillation (65° C. at 110 mTorr), delivered 6.29 of product (79%). 1H NMR (CD2Cl2, 500 MHz): δ 7.89 (s, br, 1H), 4.65 (s, 1H), 3.64 (t, 2H, J=7.2 Hz), 2.51 (t, 2H, J=8.0 Hz), 1.85 (m, 2H). 13C NMR (CD2Cl2, 125 MHz): δ 167.0, 81.7, 53.7, 34.8, 23.2.

reactant | diisopropylamine | 109.7 mmol, 11.1 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 109.7 mmol, 2.89 M, 37.97 mL | [Li]CCCC
reactant | 2-methyl-1-pyrroline | 67.9 mmol, 5.65 g | CC1=NCCC1 | C5H9N
reactant | 2-methylthio-1-pyrroline | 52.3 mmol, 6.02 g | CSC1=NCCC1 | C5H9NS
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(Pyrrolidin-2-ylidenemethyl)-1-pyrroline | N1C(CCC1)=CC1=NCCC1 | C9H14N2
